US09399637B2
Step 1) tert-butyl 5-((2-chloro-5-methylpyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of 2,4-dichloro-5-methylpyrimidine (2.00 g, 12.3 mmol) and tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (4.64 g, 20.5 mmol) in EtOH (25 mL) was added Et3N (2.62 g, 25.9 mmol). The reaction mixture was stirred at 50° C. overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/2) to give the title compound as yellow oil (2.42 g, 55.9%).

reactant | 2,4-dichloro-5-methylpyrimidine | 12.3 mmol, 2.00 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 20.5 mmol, 4.64 g | NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O2
reactant | Et3N | 25.9 mmol, 2.62 g | CCN(CC)CC | C6H15N
solvent | EtOH | 25 mL | CCO | C2H6O
product | tert-butyl 5-((2-chloro-5-methylpyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 2.42 g, 55.9% | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C | C17H25ClN4O2
